US08217028B2
To a solution of ethyl 3-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-6-fluoro-1-methyl-1H-indol-3-yl]propanoate (D147) (330 mg) in isopropanol (7 mL) and water (7 mL) was added NaOH (6.79 mL, 0.5 M aqueous solution) at room temperature. The reaction suspension was stirred at 90° C. for 2 hours, and the solution turned clear. Isopropanol was removed in vacuo and water (8 mL) was added to the residue. The aqueous solution was acidified to pH=1 and extracted with ethyl acetate (3×10 mL). The combined organic phase was dried over sodium sulphate. The organic solution was concentrated and the residue was purified by MDAP to afford 3-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-6-fluoro-1-methyl-1H-indol-3-yl]propanoic acid (E104) (136 mg) as a white solid. δH (DMSO-d6, 400 MHz): 1.29 (6H, s), 2.53 (2H, t), 2.87 (2H, t), 3.29 (3H, s), 4.83 (1H, m), 7.02 (1H, m), 7.10 (1H, s), 7.39 (1H, d), 7.75 (1H, m), 8.07 (1H, dd), 8.14 (1H, d), 12.07 (1H, s). MS (ES): C23H21ClFN3O4 requires 457; found 458.2 (M+H+).

reactant | ethyl 3-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-6-fluoro-1-methyl-1H-indol-3-yl]propanoate | 330 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C(=CC=C2C(=CN(C12)C)CCC(=O)OCC)F | C25H25ClFN3O4
reactant | NaOH | 0.5 M, 6.79 mL | [OH-].[Na+]
solvent | isopropanol | 7 mL | C(C)(C)O | C3H8O
solvent | water | 7 mL | O | H2O
product | 3-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-6-fluoro-1-methyl-1H-indol-3-yl]propanoic acid | 136 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C(=CC=C2C(=CN(C12)C)CCC(=O)O)F | C23H21ClFN3O4
